US04554013
Preparation of 3-chloro-4-methylphthalic anhydride
A stirred solution of 21.5 g (0.10 mol) of 3-chloro-4-methylphthalic acid in 300 mL acetic anhydride is heated under reflux for six hours, allowed to cool to room temperature and concentrated in vacuo several times with anhydrous toluene. A viscous, dark, amber syrup is obtained, characterized by an infrared spectrum and used without further purification.

reactant | 3-chloro-4-methylphthalic acid | 0.10 mol, 21.5 g | ClC1=C(C(C(=O)O)=CC=C1C)C(=O)O | C9H7ClO4
solvent | acetic anhydride | 300 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3-chloro-4-methylphthalic anhydride | ClC1=C2C(C(=O)OC2=O)=CC=C1C | C9H5ClO3
